US06239131B1
Preparation of 2-oxo-3-benzyloxycarbonylamino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-Methoxymethyl-2-oxo-3-amino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (0.94 g) was dissolved in 25% hydrobromic acid-acetic acid solution (18 ml), the mixture was stirred for one hour. The reaction mixture was concentrated under reduced pressure, diethyl ether was add, the solid so precipitated was collected by filtration to give pale brown crystals. This crystals were suspended in water (5 ml), 1N aqueous sodium hydroxide (4.5 ml) and a solution of benzyl chloroformate (301 mg) in tetrahydrofuran (7 ml) were added thereto, the resultant mixture was stirred for one hour. Water was added to the reaction mixture, extracted with methylene chloride, the organic layer was successively washed with water and saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1), to thereby obtain 291 mg of the titled compound as amorphous.

reactant | 1-Methoxymethyl-2-oxo-3-amino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.94 g | COCN1C(C(CN(C2=C1C=CC=C2)C2=C(C=CC=C2)F)N)=O | C17H18FN3O2
reactant | sodium hydroxide | 1N, 4.5 ml | [OH-].[Na+]
reactant | benzyl chloroformate | 301 mg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | hydrobromic acid acetic acid | 18 ml | Br.C(C)(=O)O
solvent | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-oxo-3-benzyloxycarbonylamino-5-(2-fluorophenyl)-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 291 mg | O=C1C(CN(C2=C(N1)C=CC=C2)C2=C(C=CC=C2)F)NC(=O)OCC2=CC=CC=C2 | C23H20FN3O3
